US04885302
(b) 2-[{1-[(3,4-Dimethoxyphenyl)methyl]-4-piperidyl}-carbonyl]-1,2,3,4-tetrahydroisoquinoline.
6.5 g of 1-[(3,4-dimethoxyphenyl)methyl]-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium chloride, 300 ml of ethanol and 0.7 g of platinum oxide are introduced into a Parr bottle.

reactant | 1-[(3,4-dimethoxyphenyl)methyl]-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium chloride | 6.5 g | [Cl-].COC=1C=C(C=CC1OC)C[N+]1=CC=C(C=C1)C(=O)N1CC2=CC=CC=C2CC1
catalyst | platinum oxide | 0.7 g | [Pt]=O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[{1-[(3,4-Dimethoxyphenyl)methyl]-4-piperidyl}-carbonyl]-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C=CC1OC)CN1CCC(CC1)C(=O)N1CC2=CC=CC=C2CC1 | C24H30N2O3
